US03998955
The starting substance can be manufactured by dissolving 26 g of 4-methoxy-5-isoamyl-2-picoline in 78 ml of benzaldehyde and 86 ml of acetic anhydride and heating the reaction mixture for 16 hours under reflux. After cooling, the mixture is evaporated, treated with 2 N sodium hydroxide solution and extracted with ether. Distillation of the ether residue in a bulb tube in a high vacuum at a temperature of 180°-200° yields 2-styryl-4-methoxy-5-isoamyl-pyridine.

reactant | 4-methoxy-5-isoamyl-2-picoline | 26 g | COC1=CC(=NC=C1CCC(C)C)C | C12H19NO
reactant | benzaldehyde | 78 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic anhydride | 86 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-styryl-4-methoxy-5-isoamyl-pyridine | C(=CC1=CC=CC=C1)C1=NC=C(C(=C1)OC)CCC(C)C | C19H23NO
